US06307058B1
A mixture of 49 g of hexadecanol (0.202 moles), 28 g of N-carbamylmaleimide (0.2 moles) and 270 mg of zinc chloride (0.002 moles) in 300 mL of p-dioxane was heated to reflux. After 24 hours, the mixture was cooled to room temperature and 200 mL of H2O was added. The resulting solid was filtered, washed with additional H2O and dried to afford 75 g (97% yield) of hexadecyl maleurate. M.P.: 106°-09° C. (dec.); 1H NMR (CDCl3): δ10.5 (br s, 1H), 8.2 (br s, 1H), 6.3 (m, 2H), 5.4 (br s, 1H), 4.2 (t, 2H), 1.6 (m, 2 H), 1.2 (m, 26H), 0.9 (t, 3H); HPLC (80% CH3CN/H2O, C18): Rt=6.9 minutes.

reactant | hexadecanol | 0.202 moles, 49 g | C(CCCCCCCCCCCCCCC)O | C16H34O
reactant | N-carbamylmaleimide | 0.2 moles, 28 g | C(N)(=O)N1C(C=CC1=O)=O | C5H4N2O3
reactant | H2O | 200 mL | O | H2O
solvent | p-dioxane | 300 mL | O1CCOCC1 | C4H8O2
catalyst | zinc chloride | 0.002 moles, 270 mg | [Cl-].[Zn+2].[Cl-]
product | hexadecyl maleurate | 75 g, 97% yield | C(\C=C/C(NC(N)=O)=O)(=O)OCCCCCCCCCCCCCCCC | C21H38N2O4
